US08008507B2
25 g of 2-fluorenecarboaldehyde, 11.6 g of sodium acetate, 9.7 g of hydroxy ammonium chloride and 150 ml of acetic acid were stirred at 130 for 18 hours. The reaction mixture was allowed to room temperature, poured into 200 ml of water and the precipitate was collected by filtration. The crude product was purified by column chromatography, giving 15.57 g (63%) of 2-cyanofluorene.

reactant | 2-fluorenecarboaldehyde | 25 g | C1=C(C=CC=2C3=CC=CC=C3CC12)C=O | C14H10O
reactant | sodium acetate | 11.6 g | C(C)(=O)[O-].[Na+]
reactant | hydroxy ammonium chloride | 9.7 g | [Cl-].O[NH3+]
reactant | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | water | 200 ml | O | H2O
product | 2-cyanofluorene | 15.57 g, 63% | C(#N)C1=CC=2CC3=CC=CC=C3C2C=C1 | C14H9N
